US07422609B2
Stage 2: synthesis of N-(3-{[(4-aminophenyl)amino]methyl}benzyl)benzene-1,4-diamine tetrahydrochloride (2)
The mixture of powdered zinc (30 g), ammonium chloride (3 g), water (5 ml) and absolute ethanol were brought to reflux with the oil bath. The 4-nitro-N-(3-{[(4-nitrophenyl)amino]methyl}benzyl)aniline (3 g) was dissolved in 50 ml of NMP and introduced dropwise until there was decoloration of the reaction medium, while at the same time the reflux was maintained.

reactant | ammonium chloride | 3 g | [Cl-].[NH4+]
reactant | water | 5 ml | O | H2O
reactant | ethanol | C(C)O | C2H6O
reactant | 4-nitro-N-(3-{[(4-nitrophenyl)amino]methyl}benzyl)aniline | 3 g | [N+](=O)([O-])C1=CC=C(NCC2=CC(=CC=C2)CNC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C20H18N4O4
solvent | NMP | 50 ml | CN1CCCC1=O | C5H9NO
catalyst | zinc | 30 g | [Zn] | Zn
product | N-(3-{[(4-aminophenyl)amino]methyl}benzyl)benzene-1,4-diamine tetrahydrochloride | Cl.Cl.Cl.Cl.NC1=CC=C(C=C1)NCC=1C=C(CNC2=CC=C(C=C2)N)C=CC1 | InChI=1S/C20H22N4.4ClH/c21-17-4-8-19(9-5-17)23-13-15-2-1-3-16(12-15)14-24-20-10-6-18(22)7-11-20;;;;/h1-12,23-24H,13-14,21-22H2;4*1H
